US08476434B2
Synthesis of N-(2-fluoro-5-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)-3-(trifluoromethyl)benzamide
To 4-fluoro-N1-(3-(pyrimidin-4-yl)pyridin-2-yl)benzene-1,3-diamine (25 mg, 0.089 mmol) in CH2Cl2 (1.5 mL) was added 3-(trifluoromethyl)benzoyl chloride (21 mg, 0.098 mmol). The mixture was stirred overnight at RT. The crude material was purified by preparative TLC (100% EtOAc), which yielded the title compound as a yellow solid. MS m/z=454 [M+1]+. Calc'd for C23H15F4N5: 453.40.

reactant | 4-fluoro-N1-(3-(pyrimidin-4-yl)pyridin-2-yl)benzene-1,3-diamine | 0.089 mmol, 25 mg | FC1=C(C=C(C=C1)NC1=NC=CC=C1C1=NC=NC=C1)N | C15H12FN5
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.098 mmol, 21 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-fluoro-5-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)-3-(trifluoromethyl)benzamide | FC1=C(C=C(C=C1)NC1=NC=CC=C1C1=NC=NC=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C23H15F4N5O
